US07951826B2
[4-(5-Fluoro-pentyloxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure E except the reaction mixture is stirred at room temperature overnight starting from (4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 1-bromo-5-fluoropentane. MS (ES+) 363.3

reactant | (4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | OC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H22N2O2
reactant | 1-bromo-5-fluoropentane | BrCCCCCF | C5H10BrF
product | [4-(5-Fluoro-pentyloxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FCCCCCOC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C21H31FN2O2
